US06441017B1
Step E: 8-Amino-2-methoxyquinoline
2-Methoxy-8-nitroquinoline, as described above in Step D, (2.07 g, 10.14 mmol) was dissolved in EtOH (150 mL) and EtOAc (150 mL), the vessel was degassed, Pd/C (200 mg, 10 wt %) was added and the vessel was filled with H2 (1 atm). After 1 hour, the reaction was filtered through a pad of celite and concentrated in vacuo. The residue was chromatographed on silica gel, eluting with CH2Cl2, to yield the above-titled compound.

reactant | 2-Methoxy-8-nitroquinoline | COC1=NC2=C(C=CC=C2C=C1)[N+](=O)[O-] | C10H8N2O3
solvent | EtOH | 150 mL | CCO | C2H6O
product | 8-Amino-2-methoxyquinoline | NC=1C=CC=C2C=CC(=NC12)OC | C10H10N2O
